US05276049
1-[4-(2-Methoxycarbonyl-ethyl)-phenyl]-3-[4-(methylamino-methyl)-phenyl]-imidazolidin-2-one
Prepared from 1-(4-aminomethyl-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one by alkylation with methyliodide in dimethylsulphoxide.

reactant | 1-(4-aminomethyl-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one | NCC1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)OC)=O | C20H23N3O3
reactant | methyliodide | CI | CH3I
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 1-[4-(2-Methoxycarbonyl-ethyl)-phenyl]-3-[4-(methylamino-methyl)-phenyl]-imidazolidin-2-one | COC(=O)CCC1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CNC)=O | C21H25N3O3
